### PR TITLE
[Merged by Bors] - feat: relation between conditional measure and conditional kernel/expectation

### PR DESCRIPTION
**Pull request by kex-y**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/MeasurableSpace/Basic.lean [hunk 1]
```diff
@@ -1182,8 +1183,67 @@ namespace MeasurableSpace
...
+lemma generateFrom_singleton_le {m : MeasurableSpace α} {s : Set α} (hs : MeasurableSet s) :
+    MeasurableSpace.generateFrom {s} ≤ m :=
+  generateFrom_le (fun _ ht ↦ mem_singleton_iff.1 ht ▸ hs)
+
 end MeasurableSpace
 
+namespace MeasureTheory
+
+theorem measurableSet_generateFrom_singleton_iff {s t : Set α} :
+    MeasurableSet[MeasurableSpace.generateFrom {s}] t ↔ t = ∅ ∨ t = s ∨ t = sᶜ ∨ t = univ := by
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/MeasurableSpace/Basic.lean:1195]: There is a shorter proof of that in the (closed) PR #16293
Also @YaelDillies wrote over there that we actually don't want that lemma. I'll let them explain why we wouldn't even though several people seem to need it and it seems very natural.

Comment (kex-y) [reply Mathlib/MeasureTheory/MeasurableSpace/Basic.lean:1195]: I wasn't able to get the old proof to work so that's why rewrote the proof. Feel free to push a shorter proof if anyone can golf it.

I talked with @YaelDillies already and I think what they meant in that comment is that it was not needed for Violeta and not that it's not useful in general.

File: Mathlib/Probability/Kernel/Condexp.lean [hunk 2]
```diff
@@ -213,4 +214,60 @@ theorem condexp_ae_eq_integral_condexpKernel [NormedAddCommGroup F] {f : Ω →
...
+section Cond
+
+/-! ### Relation between conditional expectation, conditional kernel and the conditional measure. -/
+
+variable {s t : Set Ω} [NormedAddCommGroup F] [NormedSpace ℝ F] [CompleteSpace F]
+
+omit [StandardBorelSpace Ω]
+
+lemma condexp_generateFrom_singleton (hs : MeasurableSet s) {f : Ω → F} (hf : Integrable f μ) :
+    μ[f | MeasurableSpace.generateFrom {s}] =ᵐ[μ.restrict s]
```
Comment (RemyDegenne) [inline Mathlib/Probability/Kernel/Condexp.lean:226]: Open the namespace `MeasurableSpace` to make that section less verbose?

File: Mathlib/Probability/Kernel/Condexp.lean [hunk 3]
```diff
@@ -213,4 +214,60 @@ theorem condexp_ae_eq_integral_condexpKernel [NormedAddCommGroup F] {f : Ω →
...
+    fun _ ↦ ∫ x, f x ∂μ[|s] := by
```
Comment (RemyDegenne) [inline Mathlib/Probability/Kernel/Condexp.lean:227]:
```suggestion
    μ[f | MeasurableSpace.generateFrom {s}] =ᵐ[μ.restrict s] fun _ ↦ ∫ x, f x ∂μ[|s] := by
```
I think it fits? (did not check)
It will definitely fit if you open `MeasurableSpace`.

File: Mathlib/Probability/Kernel/Condexp.lean [hunk 4]
```diff
@@ -213,4 +214,60 @@ theorem condexp_ae_eq_integral_condexpKernel [NormedAddCommGroup F] {f : Ω →
...
 
+section Cond
+
+/-! ### Relation between conditional expectation, conditional kernel and the conditional measure. -/
+
+variable {s t : Set Ω} [NormedAddCommGroup F] [NormedSpace ℝ F] [CompleteSpace F]
+
+omit [StandardBorelSpace Ω]
+
+lemma condexp_generateFrom_singleton (hs : MeasurableSet s) {f : Ω → F} (hf : Integrable f μ) :
```
Comment (RemyDegenne) [inline Mathlib/Probability/Kernel/Condexp.lean:225]: `hf : Integrable f μ` is needed because if `f` is not integrable the lhs is 0 but the rhs might be nonzero because we could have `hf : IntegrableOn f s μ`, right?

File: Mathlib/Probability/Kernel/Condexp.lean [hunk 5]
```diff
@@ -213,4 +214,60 @@ theorem condexp_ae_eq_integral_condexpKernel [NormedAddCommGroup F] {f : Ω →
...
+          integral_const, MeasurableSet.univ, Measure.restrict_apply, univ_inter,
+          smul_inv_smul₀ <| ENNReal.toReal_ne_zero.2 ⟨hμs, measure_ne_top _ _⟩]
+
+lemma condexp_set_generateFrom_singleton (hs : MeasurableSet s) (ht : MeasurableSet t) :
+    μ⟦t | MeasurableSpace.generateFrom {s}⟧ =ᵐ[μ.restrict s]
+    fun _ ↦ (μ[t|s]).toReal := by
+  rw [← integral_indicator_one ht]
+  exact condexp_generateFrom_singleton hs <| Integrable.indicator (integrable_const 1) ht
+
+lemma condexpKernel_ae_eq_cond [StandardBorelSpace Ω] (hs : MeasurableSet s)
```
Comment (RemyDegenne) [inline Mathlib/Probability/Kernel/Condexp.lean:260]:
```suggestion
lemma condexpKernel_singleton_ae_eq_cond [StandardBorelSpace Ω] (hs : MeasurableSet s)
```

File: Mathlib/Probability/Kernel/Condexp.lean [hunk 6]
```diff
@@ -213,4 +214,60 @@ theorem condexp_ae_eq_integral_condexpKernel [NormedAddCommGroup F] {f : Ω →
...
+      · simp only [h, integral_const, MeasurableSet.univ, Measure.restrict_apply, univ_inter,
+          ((Measure.restrict_apply_eq_zero hs.compl).2 <| compl_inter_self s ▸ measure_empty),
+          ENNReal.zero_toReal, zero_smul, setIntegral_zero_measure]
+      · simp only [h, Measure.restrict_univ, cond, integral_smul_measure, ENNReal.toReal_inv,
+          integral_const, MeasurableSet.univ, Measure.restrict_apply, univ_inter,
+          smul_inv_smul₀ <| ENNReal.toReal_ne_zero.2 ⟨hμs, measure_ne_top _ _⟩]
+
+lemma condexp_set_generateFrom_singleton (hs : MeasurableSet s) (ht : MeasurableSet t) :
+    μ⟦t | MeasurableSpace.generateFrom {s}⟧ =ᵐ[μ.restrict s]
+    fun _ ↦ (μ[t|s]).toReal := by
```
Comment (RemyDegenne) [inline Mathlib/Probability/Kernel/Condexp.lean:256]:
```suggestion
    μ⟦t | MeasurableSpace.generateFrom {s}⟧ =ᵐ[μ.restrict s] fun _ ↦ (μ[t|s]).toReal := by
```

**Review by RemyDegenne — APPROVED** [review]
Thanks!
bors d+

**Comment by kex-y** [comment]
Thanks!
bors r+
